US09334269B2
A solution of (9H-fluoren-9-yl)methyl 4-(diazoacetyl)piperidine-1-carboxylate (5 g, 13.3 mmol) in THF was cooled in an ice water bath and was treated with an aqueous HBr solution (10 mL). This reaction mixture was stirred at RT for 2 h. The reaction mixture was diluted with water and the organic content was extracted using EtOAc, dried over Na2SO4, filtered and concentrated at reduced pressure. The crude product was chromatographed over silica gel eluting with a gradient (0-15% EtOAc:hexanes) to afford (9H-fluoren-9-yl)methyl 4-(bromoacetyl)piperidine-1-carboxylate (3 g, 53%) as an off white solid.

reactant | (9H-fluoren-9-yl)methyl 4-(diazoacetyl)piperidine-1-carboxylate | 13.3 mmol, 5 g | [N+](=[N-])=CC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C22H21N3O3
reactant | HBr | 10 mL | Br | BrH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (9H-fluoren-9-yl)methyl 4-(bromoacetyl)piperidine-1-carboxylate | 3 g, 53% | BrCC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C22H22BrNO3
